US07632952B2
A solution of 2-amino-6-ethoxybenzothiazole (5 g, 25.74 mmol) and of 48% hydrobromic acid in water (130 ml, 1.141 mol) in 65 ml of acetic acid is distributed in ten 20 ml microwave tubes, and then heated at 150° C. by microwave for 200 seconds. The reaction medium is concentrated. The residue is taken up in 200 ml of water, basified to pH 8 by addition of 75 ml of saturated NaHCO3 solution and extracted with ethyl acetate, washed with saturated sodium chloride solution, dried over magnesium sulfate and concentrated to dryness to give 3.4 g of 2-aminobenzothiazol-6-ol (gray powder).

reactant | 2-amino-6-ethoxybenzothiazole | 25.74 mmol, 5 g | NC=1SC2=C(N1)C=CC(=C2)OCC | C9H10N2OS
reactant | hydrobromic acid | Br | BrH
reactant | water | 1.141 mol, 130 ml | O | H2O
solvent | acetic acid | 65 ml | C(C)(=O)O | C2H4O2
product | 2-aminobenzothiazol-6-ol | 3.4 g | NC=1SC2=C(N1)C=CC(=C2)O | C7H6N2OS
